US07166598B2
A mixture of triphenylphosphine (10.2 g), diethyl azodicarboxylate (6.12 ml), and (2S)-1-[N-benzyl-N-[(2S)-2-hydroxy-3-methoxypropyl]amino]-3-methoxypropan-2-ol (7.34 g) in tetrahydrofuran (70 ml) was stirred at 0° C. for 5 hours. To the mixture was added successively triphenylphosphine (2.04 g) and diethyl azodicarboxylate (1.2 ml), and the mixture was stirred at 0° C. for 3 hours. The mixture was poured into water and extracted with dichloromethane (×3). The combined extracts were washed with brine, dried over sodium sulfate, and evaporated. Isopropyl ether (50 ml) was added to the residue and stirred at room temperature for 30 minutes. The insoluble precipitate was filtered off, and the solution was evaporated and purified twice with column chromatography (1st: silica gel 800 ml, ethyl acetate:isopropyl ether=2:8–3:7) (2nd: silica gel 300 ml, ethyl acetate:isopropyl ether 3:97–10.90) to give 4-benzyl-cis-2,6-dimethoxymethylmorpholine (2.65 g) as an oil.

reactant | triphenylphosphine | 10.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 6.12 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (2S)-1-[N-benzyl-N-[(2S)-2-hydroxy-3-methoxypropyl]amino]-3-methoxypropan-2-ol | 7.34 g | C(C1=CC=CC=C1)N(C[C@@H](COC)O)C[C@@H](COC)O | C15H25NO4
reactant | triphenylphosphine | 2.04 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.2 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | water | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 4-benzyl-cis-2,6-dimethoxymethylmorpholine | 2.65 g | C(C1=CC=CC=C1)N1C[C@H](O[C@H](C1)COC)COC | C15H23NO3
